US05075435
A solution of (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone (40.0 g in ethanol (600 ml) was hydrogenated under hydrogen atmosphere in the presence of 10% Pd/C (20. 0 g) at room temperature for 3 hours. The mixture was filtered, and the filtrate was evaporated in vacuo to give (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-hydroxyethyl)-2-azetidinone as a yellowish oil.

reactant | (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | C(C)OC(=O)C(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C18H21NO6
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | Pd/C | 0 g | [Pd] | Pd
product | (3S,4S)-4-(1-ethoxycarbonylethyl)-3-(1-(R)-hydroxyethyl)-2-azetidinone | C(C)OC(=O)C(C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)O | C10H17NO4
